US05885997
4-[2-[2-Methyl-4-oxo-3,4-dihydro-3-quinazolinyl]ethoxy]benzaldehyde
The title compound (0.6 g, 39%) was prepared from 2-methyl-4-oxo-3,4-dihydroquinazoline (0.8 g, 5 mmol) and 4-[2-bromoethoxy]benzaldehyde (1.37 g, 6 mmol) in the presence of K2CO3 (1.38 g, 10.0 mmol) as base, by a similar procedure to that described in preparation 1.

reactant | 2-methyl-4-oxo-3,4-dihydroquinazoline | 5 mmol, 0.8 g | CC1=NC2=CC=CC=C2C(N1)=O | C9H8N2O
reactant | 4-[2-bromoethoxy]benzaldehyde | 6 mmol, 1.37 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | K2CO3 | 10.0 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-[2-[2-Methyl-4-oxo-3,4-dihydro-3-quinazolinyl]ethoxy]benzaldehyde | 0.6 g, 39% | CC1=NC2=CC=CC=C2C(N1CCOC1=CC=C(C=O)C=C1)=O | C18H16N2O3
